US08304577B2
(R)-tert-Butyl 2-((R)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate (78 mg, 0.152 mmol) and palladium on carbon (10% wt) (36 mg, 0.034 mmol) in methanol (3.031 mL) was hydrogenated under 60 psi hydrogen gas for 4 h. The mixture was filtered through diatomaceous earth (Celite®) eluting with EtOAc and the filtrate concentrated in vacuo. Obtained (R)-tert-butyl 2-((R)-(4-hydroxyphenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate (29.1 mg, 0.069 mmol, 98% yield) as a colorless oil which was carried forward without further purification. 1H NMR (400 MHz, CDCl3) δ 8.17 (d, J=5.79 Hz, 1H), 7.25-7.31 (m, 1H), 7.13-7.23 (m, 4H), 6.91 (d, J=8.31 Hz, 2H), 6.52 (d, J=8.56 Hz, 2H), 4.45 (dd, J=10.83, 6.04 Hz, 1H), 3.99-4.14 (m, 1H), 3.27-3.57 (m, 3H), 1.72-2.07 (m, 2H), 1.59 (t, J=11.46 Hz, 2H), 1.51 (s, 9H), 1.42 (d, J=7.30 Hz, 3H); LRMS (ESI) m/e 447.20 [(M+Na)+, calcd for C25H32N2NaO4 447.23].

reactant | (R)-tert-Butyl 2-((R)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate | 0.152 mmol, 78 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]([C@@H]1N(CCC1)C(=O)OC(C)(C)C)NC([C@@H](C)C1=CC=CC=C1)=O | C32H38N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.034 mmol, 36 mg | [Pd] | Pd
solvent | methanol | 3.031 mL | CO | CH4O
product | (R)-tert-butyl 2-((R)-(4-hydroxyphenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate | 0.069 mmol, 29.1 mg, 98% yield | OC1=CC=C(C=C1)[C@H]([C@@H]1N(CCC1)C(=O)OC(C)(C)C)NC([C@@H](C)C1=CC=CC=C1)=O | C25H32N2O4
